US07566739B2
5e) ETHYL[3,5-DIFLUORO-4-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)PHENOXY]ACETATE
An acetone (5 ml) suspension of 3,5-difluoro-4-(2,2,2-trifluoro-1,1-dimethylethyl)phenol (227 mg, 0.95 mmol), ethyl bromoacetate (174 mg, 1.0 mmol) and potassium carbonate (261 mg, 1.9 mmol) was stirred at reflux for 1 hour. Then, the reaction was quenched with water and the product was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtrated and evaporated to furnish 267 mg (87% yield) of the title compound as colorless oil.

reactant | 3,5-difluoro-4-(2,2,2-trifluoro-1,1-dimethylethyl)phenol | 0.95 mmol, 227 mg | FC=1C=C(C=C(C1C(C(F)(F)F)(C)C)F)O | C10H9F5O
reactant | ethyl bromoacetate | 1.0 mmol, 174 mg | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.9 mmol, 261 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | ETHYL[3,5-DIFLUORO-4-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)PHENOXY]ACETATE | 267 mg, 87% yield | C(C)OC(COC1=CC(=C(C(=C1)F)C(C(F)(F)F)(C)C)F)=O | C14H15F5O3
